US04173633
80 ml of 1 M diborane in tetrahydrofuran are added to the suspension of 6.8 g of [9-methoxy-2-oxo-3,4,5,5a,6,7-hexahydro-2H-naphth-[1,2-d]azepin-1-yl]-N-isopropyl-acetamide in 100 ml of tetrahydrofuran while stirring under nitrogen at 0°. After 20 hours 60 ml of 3 N hydrochloric acid are added dropwise and the mixture is refluxed for one hour. The tetrahydrofuran is distilled off under reduced pressure and the remainder is diluted with water. The resulting precipitate is filtered off and re-extracted with hot water. The aqueous filtrate is washed with diethyl ether and basified with 3 N aqueous sodium hydroxide. The suspension is extracted with methylene chloride, the extract dried, evaporated and the residue recrystallized from acetone, to yield the 1-(2-isopropylaminoethyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one melting at 147°-149°.

reactant | diborane | 1 M, 80 ml | B#B | B2
reactant | [9-methoxy-2-oxo-3,4,5,5a,6,7-hexahydro-2H-naphth-[1,2-d]azepin-1-yl]-N-isopropyl-acetamide | 6.8 g | COC=1C=C2CCC3C(=C(C(NCC3)=O)CC(=O)NC(C)C)C2=CC1 | C20H26N2O3
reactant | hydrochloric acid | 3 N, 60 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-isopropylaminoethyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one | C(C)(C)NCCC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O | C20H28N2O2
